US07858643B2
A mixture of 4-bromo-imidazole (217 mg, 1.48 mmol) and cesium carbonate (875 mg, 2.69 mmol) in dimethylformamide (5 mL) was stirred for 30 minutes. 4-(2-Chloro-ethyl)-morpholine hydrochloride (250 mg, 1.34 mmol) was added and the mixture was heated to 50° C. After heating overnight the reaction was concentrated by rotary evaporation. The residue was suspended in a mixture of dichloromethane and methanol and filtered. The filtrate was concentrated by rotary evaporation. The residue was purified by silica gel chromatography using gradient elution of dichloromethane, methanol to afford 4-[2-(4-Bromo-imidazol-1-yl)-ethyl]-morpholine (148 mg, 42%).

reactant | 4-bromo-imidazole | 1.48 mmol, 217 mg | BrC=1N=CNC1 | C3H3BrN2
reactant | cesium carbonate | 2.69 mmol, 875 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(2-Chloro-ethyl)-morpholine hydrochloride | 1.34 mmol, 250 mg | Cl.ClCCN1CCOCC1
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[2-(4-Bromo-imidazol-1-yl)-ethyl]-morpholine | 148 mg, 42% | BrC=1N=CN(C1)CCN1CCOCC1 | C9H14BrN3O
